US07714168B2
4-Benzyloxy-3,5-difluorobenzonitrile and 15 ml of concentrated sulfuric acid were added to 100 ml of methanol and the mixture was heated under reflux for 5 days. Then, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 4.5 g of methyl 3,5-difluoro-4-hydroxybenzoate represented by the formula:

reactant | 4-Benzyloxy-3,5-difluorobenzonitrile | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1F)F | C14H9F2NO
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
reactant | water | O | H2O
product | methyl 3,5-difluoro-4-hydroxybenzoate | 4.5 g | FC=1C=C(C(=O)OC)C=C(C1O)F | C8H6F2O3
